US03933851
To a stirred solution of 56.6 g. (0.40 mole) of 4-chloro-2-methylaniline, 103.2 g. (0.48 mole) of 27.5% aqueous trimethylamine and 28 ml. of acetone at 25°C. is added dropwise 34.4 g. (0.44 mole) of carbon disulfide. The reaction mixture is stirred for 1 hour upon completion of the addition of the carbon disulfide and then filtered. The resulting solid is washed with 75 ml. of ethyl acetate and air dried to obtain 106 g. (95.9% yield) of trimethylammonium 4-chloro-2-methyphenyl dithiocarbamate.

reactant | 4-chloro-2-methylaniline | 0.40 mole | ClC1=CC(=C(N)C=C1)C | C7H8ClN
reactant | trimethylamine | 0.48 mole | CN(C)C | C3H9N
reactant | acetone | CC(=O)C | C3H6O
reactant | carbon disulfide | C(=S)=S | CS2
reactant | carbon disulfide | 0.44 mole | C(=S)=S | CS2
product | trimethylammonium 4-chloro-2-methyphenyl dithiocarbamate | 95.9% yield | ClC1=CC(=C(C=C1)NC([S-])=S)C.C[NH+](C)C | InChI=1S/C8H8ClNS2.C3H9N/c1-5-4-6(9)2-3-7(5)10-8(11)12;1-4(2)3/h2-4H,1H3,(H2,10,11,12);1-3H3
